US09238656B2
To a solution of 3-formylbenzoic acid (600 mg, 3.99 mmol) in DCM (12 mL) were added tert-butyl piperazine-1-carboxylate (818.8 mg, 4.40 mmol), HATU (1.82 g, 4.80 mmol), NMM (1.1 mL, 9.99 mmol), and DMAP (49 mg, 0.39 mmol) at 0° C. Reaction was stirred at RT for 16 h. TLC analysis indicated complete consumption of starting material. The reaction mixture was diluted with DCM and washed with water. Organic layer was separated and dried over Na2SO4 and concentrated. Column chromatography of crude material afforded pure product tert-butyl 4-(3-formylbenzoyl)piperazine-1-carboxylate as off-white solid (990 mg, 78%).

reactant | 3-formylbenzoic acid | 3.99 mmol, 600 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | tert-butyl piperazine-1-carboxylate | 4.40 mmol, 818.8 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | HATU | 4.80 mmol, 1.82 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 9.99 mmol, 1.1 mL | CN1CCOCC1 | C5H11NO
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.39 mmol, 49 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-(3-formylbenzoyl)piperazine-1-carboxylate | 990 mg, 78% | C(=O)C=1C=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H22N2O4
